US05420130
1.1. N-[2-(2-Methoxyphenoxy)ethyl]-N-methyl-N'-(triphenylmethyl)-1,3-propanediamine
8.05 g (0.0370 mol) of N-methyl-2-(2-methoxyphenoxy) ethylamine hydrochloride, 15.5 g (0. 0407 mol) of N-triphenylmethyl-3-bromopropylamine, (0.0925 mol) of potassium carbonate and 75 ml of N,N-dimethylformamide are introduced, under argon, into a 500 ml, three-necked, round-bottomed flask. The mixture is stirred for 15.5 h at 90° C. The reaction mixture is treated with a mixture of water and ice and extracted with ethyl acetate. The organic phase is washed with water, dried over sodium sulphate and concentrated under reduced pressure.

reactant | N-methyl-2-(2-methoxyphenoxy) ethylamine hydrochloride | 0.0370 mol, 8.05 g | Cl.CNCCOC1=C(C=CC=C1)OC
reactant | N-triphenylmethyl-3-bromopropylamine | 0.0925 mol, 15.5 g | C1(=CC=CC=C1)C(NCCCBr)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H22BrN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[2-(2-Methoxyphenoxy)ethyl]-N-methyl-N'-(triphenylmethyl)-1,3-propanediamine | COC1=C(OCCN(CCCNC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C)C=CC=C1 | C32H36N2O2
